US08975261B2
(4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)methanol (YY3)
A 1N THF solution of LAH (0.175 mL, 0.175 mmol) was added dropwise to a 0° C. solution of ethyl-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidine-5-carboxylate (30 mg, 0.087 mmol) in THF (0.58 mL). The reaction mixture was slowly warmed to room temperature, and then stirred for 30 mins. The reaction mixture was re-cooled to 0° C. and the carefully quenched by dropwise addition of water (10 μL), 15% NaOH in water (20 μL), and then water (20 μL). The slurry was treated with excess Na2SO4, stirred vigorously at room temperature for 10 mins, and then filtered through a pad of Celite eluting exhaustively with 1:1 CH2Cl2/MeOH. The filtrated was concentrated in vacuo. The resulting product was sufficiently pure to use in the subsequent step without further purification. LRMS m/z (M+H) 302.4 found, 302.1 required.

reactant | LAH | 0.175 mmol, 0.175 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | ethyl-4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidine-5-carboxylate | 0.087 mmol, 30 mg | C(C)OC(=O)C=1C(=NC(=NC1)C)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC | C18H21N3O4
solvent | THF | 0.58 mL | C1CCOC1 | C4H8O
solvent | THF | 1N | C1CCOC1 | C4H8O
product | (4-{[(1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl]methoxy}-2-methylpyrimidin-5-yl)methanol | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)COC1=NC(=NC=C1CO)C | C16H19N3O3
